US06174573B1
120 g of thionyl chloride was added to 100 g of 4-bromobenzoic acid and the mixture was heated at 90° C. While stirring for 6 hours. After the reaction, an excess amount of thionyl chloride was removed by evaporation. 85 g of bromobenzoic acid chloride was obtained by vacuum distillation at about 20 mmHg in a distillation temperature range of 190-200° C. The bromobenzoic acid chloride was added dropwise to a solution prepared from 50 g of 3,4-difluorophenol, 150 ml of dimethylformamide, and 31 g of pyridine over about one hour while stirring at a temperature below 30° C. The mixture was then heated to 70° C. and stirred for 10 hours, and poured into a 10-fold amount of water to produce crystals. The crystals were collected by filtration, washed with dilute HCl and then water, dried in vacuum at 40° C., and recrystallized from ethyl acetate to obtain 50 g or 3,4-difluorophenyl 4-bromobenzoate. To this were added 40 g of 4-propylcyclohexylphenylacetylene, 0.11 g of bis(triphenylphosphine)palladium(II) chloride, 0.12 g of copper iodide, 0.96 g of triphenylphosphine, and 400 ml of triethylamine, followed by stirring for 10 hours while heating at 90° C. After the reaction, the reaction product was poured into a 10-fold amount of water to produce crystals. The crystals were collected by filtration, washed with water, dried in vacuum at 40° C., and recrystallized from a mixed solvent of ethyl acetate and methanol to obtain 43 g of a compound of the following formula. This compound had a nematic liquid crystal phase, a C-N point (crystal-nematic phase transition temperature) of 104° C., and an N-I point of 235° C. The IR spectrum of this compound had peaks (cm−1) at 3030, 2921, 2217, 1735, 1518, 1246, 1178, 1145, and 1107.

reactant | bromobenzoic acid chloride | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 3,4-difluorophenol | 50 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 31 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3,4-difluorophenyl 4-bromobenzoate | BrC1=CC=C(C(=O)OC2=CC(=C(C=C2)F)F)C=C1 | C13H7BrF2O2
